US06642224B1
Ethyl 4-bromomethyl-3-nitrobenzoate (46.11 g) was dissolved in 500 ml of acetonitrile, then 20 g of 4-methylmorpholine-N-oxide was added and the mixture was stirred at room temperature for 80 minutes. The reaction solution was concentrated in vacuo, water was added and the mixture was extracted with chloroform. The organic layer was washed with a saturate aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using hexane-ethyl acetate (4:1) as an eluting solvent to give 10.723 g of ethyl 4-formyl-3-nitrobenzoate.

reactant | Ethyl 4-bromomethyl-3-nitrobenzoate | 46.11 g | BrCC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C10H10BrNO4
reactant | 4-methylmorpholine-N-oxide | 20 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | ethyl 4-formyl-3-nitrobenzoate | 10.723 g | C(=O)C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C10H9NO5
